US06008230
A mixture of 6-(2,6-dichlorobenzoylamino)-2,3-dihydro-1-methyl-1H-pyrazolo[4,3-c]quinolin-3-one hydrochloride (85 mg), 4-chloromethylpyridine hydrochloride (40 mg) and potassium carbonate (111 mg) in dimethylformamide (1 ml) was stirred for 3 hours at ambient temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give 6-(2,6-dichlorobenzoylamino)-2,3-dihydro-1-methyl-2-(pyridin-4-ylmethyl)-1H-pyrazolo[4,3-c]quinolin-3-one.

reactant | 6-(2,6-dichlorobenzoylamino)-2,3-dihydro-1-methyl-1H-pyrazolo[4,3-c]quinolin-3-one hydrochloride | 85 mg | Cl.ClC1=C(C(=O)NC2=CC=CC=3C4=C(C=NC23)C(NN4C)=O)C(=CC=C1)Cl
reactant | 4-chloromethylpyridine hydrochloride | 40 mg | Cl.ClCC1=CC=NC=C1
reactant | potassium carbonate | 111 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 6-(2,6-dichlorobenzoylamino)-2,3-dihydro-1-methyl-2-(pyridin-4-ylmethyl)-1H-pyrazolo[4,3-c]quinolin-3-one | ClC1=C(C(=O)NC2=CC=CC=3C4=C(C=NC23)C(N(N4C)CC4=CC=NC=C4)=O)C(=CC=C1)Cl | C24H17Cl2N5O2
